US04843068
Methyl 2-[{5-(4-chlorophenoxy)-1,3-dimethylpyrazol-4-yl}methyleneaminoxymethyl]benzoate (compound No. 3)
2.0 Grams (0.00755 mole) of 5-(4-chlorophenoxy)-1,3-dimethyl-pyrazole-4-carbaldehyde oxime was dissolved in 20 ml of dimethylformamide, and after adding 0.5 g (0.0125 mole) of powdery sodium hydroxide, the resulting mixture was thoroughly stirred. To this solution was added 1.73 g (0.00755 mole) of methyl 2-bromomethylbenzoate, and reaction was carried out at from 70° to 80° C. for 5 hours. After completion of the reaction, water was added to the reaction solution which was then extracted with ethyl acetate. The ethyl acetate extract was washed with water and dried, and ethyl acetate was removed by evaporation to obtain an oily product. This oily product was column-chromatographed on silica gel to obtain 2.0 g cf the desired compound.

reactant | 5-(4-chlorophenoxy)-1,3-dimethyl-pyrazole-4-carbaldehyde oxime | 0.00755 mole | ClC1=CC=C(OC2=C(C(=NN2C)C)C=NO)C=C1 | C12H12ClN3O2
reactant | sodium hydroxide | 0.0125 mole, 0.5 g | [OH-].[Na+]
reactant | methyl 2-bromomethylbenzoate | 0.00755 mole, 1.73 g | BrCC1=C(C(=O)OC)C=CC=C1 | C9H9BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Methyl 2-[{5-(4-chlorophenoxy)-1,3-dimethylpyrazol-4-yl}methyleneaminoxymethyl]benzoate | Yield 64.0% | ClC1=CC=C(OC2=C(C(=NN2C)C)C=NOCC2=C(C(=O)OC)C=CC=C2)C=C1 | C21H20ClN3O4
